US06727249B2
(1R*,2R*,5R*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-1-(4-fluorophenyl)-8-azabicyclo[3.2.1]octane
Sodium hydride (320 mg, 60% in oil, 7.98 mmol) was washed with iso-hexane (×3) then THF (8 ml) and (1R*,2R*,5R*)-8-benzyl-1-(4-fluorophenyl)-8-azabicyclo[3.2.1]octan-2-ol (Description 15; 1.24 g, 3.99 mmol) added and the mixture stirred at room temperature for 10 minutes then 3,5-bis(trifluoromethyl) benzyl bromide added and the reaction mixture stirred at 60° C. overnight. The reaction mixture was poured into water and extracted with ethyl acetate (×3), dried (MgSO4) and concentrated in vacuo to give a yellow oil. This was purified by flash column chromatography [5% ethyl acetate in iso-hexane] to give the title compound (1.51 g, 58%).

reactant | Sodium hydride | 7.98 mmol, 320 mg | [H-].[Na+]
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | (1R*,2R*,5R*)-8-benzyl-1-(4-fluorophenyl)-8-azabicyclo[3.2.1]octan-2-ol | 3.99 mmol, 1.24 g | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)O)C2=CC=C(C=C2)F | C20H22FNO
reactant | 3,5-bis(trifluoromethyl) benzyl bromide | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | iso-hexane | CCCC(C)C | C6H14
solvent | water | O | H2O
product | (1R*,2R*,5R*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-1-(4-fluorophenyl)-8-azabicyclo[3.2.1]octane | 1.51 g, 58% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)OCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=C(C=C2)F | C29H26F7NO
